US07772226B2
(f) 3-Benzyl-2,4-dichloro-1,3-dihydroimidazo[4,5-c]pyridine
5 ml of phosphorus oxychloride and 0.338 g of phosphorus pentachloride were added to 0.383 g of 3-benzyl-4-chloro-1,3-dihydroimidazo[4,5-c]pyridin-2-one, and the mixture was heated under reflux for 24 hours. The solvent was concentrated under reduced pressure, and the residue was poured into 50 g of ice/water. The mixture was extracted with 100 ml of ethyl acetate. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.13 g of the title compound was obtained from the fraction eluted with ethyl acetate-hexane (2:1).

reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus pentachloride | 0.338 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 3-benzyl-4-chloro-1,3-dihydroimidazo[4,5-c]pyridin-2-one | 0.383 g | C(C1=CC=CC=C1)N1C(NC2=C1C(=NC=C2)Cl)=O | C13H10ClN3O
product | 3-Benzyl-2,4-dichloro-1,3-dihydroimidazo[4,5-c]pyridine | 0.13 g | C(C1=CC=CC=C1)N1C(NC2=C1C(=NC=C2)Cl)Cl | C13H11Cl2N3
